US07199147B2
N-[4-methoxy-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide (3.15 g, 10.9 mmol) and potassium hydroxide (3.20 g, 57.1 mmol) were slowly heated to 160° C. in ethylene glycol (31.0 ml) and stirred for 20 hours while maintaining the temperature. The reaction solution was portioned and extracted with water and chloroform, and the organic phase was extracted with a 1N aqueous hydrochloric acid solution to obtain an aqueous phase. This aqueous phase was made basic with a 2N aqueous sodium hydroxide solution and extracted three times with chloroform. The combined organic phase was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure to obtain 4-methoxy-2-methyl-3-(trifluoromethyl)-aniline (1.10 g, 49%).

reactant | N-[4-methoxy-2-methyl-3-(trifluoromethyl)phenyl]-2,2-dimethylpropanamide | 10.9 mmol, 3.15 g | COC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)C(F)(F)F | C14H18F3NO2
reactant | potassium hydroxide | 57.1 mmol, 3.20 g | [OH-].[K+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethylene glycol | 31.0 ml | C(CO)O | C2H6O2
product | 4-methoxy-2-methyl-3-(trifluoromethyl)-aniline | 1.10 g, 49% | COC1=C(C(=C(N)C=C1)C)C(F)(F)F | C9H10F3NO
